US04855455
A 14.3 g sample of (R)-ethyl-2-azidopropionate was taken up in 50 mL of isopropylamine and allowed to stand for 24 hours. After stripping excess amine, 14.8 g of pure N-isopropyl-2-azidopropionamide was obtained. The amide thus obtained, 3.12 g, was stirred with 5.0 g of Raney nickel catalyst in 40 mL of isopropanol until nitrogen evolution ceased. The solution was filtered and concentrated in vacuo at 40° C. to give 2.5 g of crude N-isopropyl-D-alanine amide.

reactant | (R)-ethyl-2-azidopropionate | C(C)OC([C@@H](C)N=[N+]=[N-])=O | C5H9N3O2
solvent | isopropylamine | 50 mL | C(C)(C)N | C3H9N
product | N-isopropyl-2-azidopropionamide | 14.8 g | C(C)(C)NC(C(C)N=[N+]=[N-])=O | C6H12N4O
